US06069157
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(3-nitrophenyl)pyrazole
To a rapidly stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole (0.25 g) in toluene (2 ml) containing tetrakis(triphenylphosphine)palladium(0) (0.02 g) was added saturated aqueous sodium hydrogen carbonate solution (1 ml) and a solution of 3-nitrophenylboronic acid (0.21 g) in ethanol (1 ml). The mixture was heated under reflux for 1 hour, then left at room temperature overnight and then poured into ether (25 ml) and water (25 ml). The organic layer was separated, dried (MgSO4) and evaporated. The residue was taken up the minimum amount of ethyl acetate and purified by column chromatography on silica gel (20 g) eluted with dichloromethane:hexane (1:1). Combination and evaporation of suitable fractions followed by recrystallisation from ether/hexane gave the title compound as an pale yellow solid m.p. 212-4° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | 0.25 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
reactant | sodium hydrogen carbonate | 1 ml | C(O)([O-])=O.[Na+]
reactant | 3-nitrophenylboronic acid | 0.21 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | ether | 25 ml | CCOCC | C4H10O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 25 ml | O | H2O
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(3-nitrophenyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=CC(=CC=C1)[N+](=O)[O-] | C17H8Cl2F3N5O2
